US06797715B1
28.c. ethyl 2-chloro-4-ethyl-7-fluoro-6-methoxy-3-quinolinecarboxylate
A suspension of ethyl 4-ethyl-7-fluoro-6-methoxy-2-oxo-1,2-dihydro-3-quinolinecarboxylate (19.4 g, 0.066 mol) in phosphoryl chloride (243 ml) is heated at reflux for 6 hours. The phosphoryl chloride is distilled off. The reaction mixture is decanted into ice-cooled water, then taken up in dichloromethane to solubilize. The organic phase is washed with water, then with a saturated solution of sodium chloride. The organic phase is dried over magnesium sulphate and the solvent is evaporated off. The residue is suspended in ether and the non-converted starting product (4 g) is filtered out. The filtrate is evaporated and the residue is purified by column chromatography (SiO2, AcOEt/Hpt: 5/95 to 20/80). 10.9 g of a white solid is obtained.

reactant | ethyl 4-ethyl-7-fluoro-6-methoxy-2-oxo-1,2-dihydro-3-quinolinecarboxylate | 0.066 mol, 19.4 g | C(C)C1=C(C(NC2=CC(=C(C=C12)OC)F)=O)C(=O)OCC | C15H16FNO4
reactant | phosphoryl chloride | 243 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-chloro-4-ethyl-7-fluoro-6-methoxy-3-quinolinecarboxylate | 10.9 g | ClC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)CC)OC)F | C15H15ClFNO3
